US07863310B2
2,6-Bis(trifluoromethyl)benzyl alcohol
A mixture of 80 mL of THF and t-BuOK (7.0 g, 62.5 mmol) is added to a 250 mL four-neck flask equipped with a mechanical stirrer, a thermometer, a gas inlet tube and a 100 mL dropping funnel with a gas outlet tube. Cool down to −70° C. and 2,6-bis(trifluoromethyl)benzene (8.0 mL, 10.7 g, 50.0 mmol) is added dropwise and keep agitating ˜−70° C. for 30 min. Add n-BuLi (0.10 mol, 2.87 M in hexanes 35.0 mL, 100.0 mmol) dropwise over 30 min with agitation at ˜−70° C. for 60 min. Paraformaldehyde (6.0 g, 0.20 mol) is added and keep agitating ˜70° C. for 30 min, then gradually warm to room temperature for 3 h. Pour mixture into conc HCl (10 mL) and ice water (300 mL), and stir for 1 h. Extract with hexanes (3×50 mL). Wash the combined organic layers with 50 mL of brine, dry over anhydrous Na2SO4, filter and concentrate. The crude product is vacuum distilled (72-76° C. at 4-5 mm Hg) to give the desired compound (5 g).

reactant | t-BuOK | 62.5 mmol, 7.0 g | CC(C)(C)[O-].[K+]
reactant | 2,6-bis(trifluoromethyl)benzene | 50.0 mmol, 8.0 mL, 10.7 g | FC(C1=CC(=CC=C1)C(F)(F)F)(F)F | C8H4F6
reactant | n-BuLi | 0.10 mol, 2.87 M, 35.0 mL | [Li]CCCC
reactant | Paraformaldehyde | 0.20 mol, 6.0 g | C=O | CH2O
reactant | HCl | 10 mL | Cl | ClH
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2,6-Bis(trifluoromethyl)benzyl alcohol | 5 g | FC(C1=C(CO)C(=CC=C1)C(F)(F)F)(F)F | C9H6F6O
